US05580893
N-(2-Nitroxyethyl)-2-(2-chlorophenoxy)propanamide (Exemplified compound No. 43)
Following a similar treatment to that in Example 2 and using 0.71 g of 2-(2-chlorophenoxy)propionic acid and 0.6 g of 2-nitroxyethylamine nitrate, 0.43 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 2-(2-chlorophenoxy)propionic acid | 0.71 g | ClC1=C(OC(C(=O)O)C)C=CC=C1 | C9H9ClO3
reactant | 2-nitroxyethylamine nitrate | 0.6 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-(2-chlorophenoxy)propanamide | 0.43 g | O([N+](=O)[O-])CCNC(C(C)OC1=C(C=CC=C1)Cl)=O | C11H13ClN2O5
